US04942170
Naphthoquinone (3.12 g, 20 mmol), 4-oxopentanoic acid (13.9 g, 120 mmol) and silver nitrate (2.0 g, 11.8 mmole) are combined in 30% aqueous acetonitrile at 65° C. A solution of ammonium peroxydisulfate (12.0 g, 52.6 mmole) is added dropwise over 30 minutes while the stirred mixture is maintained at 65°-75° C. On cooling, the mixture is extracted with diethyl ether (300 ml). The extract is then washed with water (3×50 ml), 5% NaHCO3 (2×50 ml) and brine (50 ml) and dried over MgSO4. After filtration through active carbon, the ether solution is evaporated to give crude 2,3-bis(3-oxobutyl)-1,4-naphthoquinone which is recrystallized from aqueous ethanol to give 1.45 g product, mp 110°-112° C. This 2,3-bis(3-oxobutyl)-1,4-naphthoquinone (0.456 g, 1.53 mmole), aminoguanidine hydrochloride (0.46 g, 4.3 mmole) and a drop of concentrated HCl are combined in 5 ml of 90% ethanol and heated at reflux for 3 hours. On cooling, 2,3-bis(3-(2-amidinohydrazono)butyl)-1,4-naphthoquinone crystallizes from the reaction mixture, and recrystallization from ethanol gives 400 mg product, mp 181°-183° C.

reactant | Naphthoquinone | 20 mmol, 3.12 g | C=1C=CC2=C(C1)C(=O)C=CC2=O | C10H6O2
reactant | 4-oxopentanoic acid | 120 mmol, 13.9 g | O=C(CCC(=O)O)C | C5H8O3
reactant | ammonium peroxydisulfate | 52.6 mmole, 12.0 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | silver nitrate | 11.8 mmole, 2.0 g | [N+](=O)([O-])[O-].[Ag+]
product | 2,3-bis(3-oxobutyl)-1,4-naphthoquinone | O=C(CCC=1C(C2=CC=CC=C2C(C1CCC(C)=O)=O)=O)C | C18H18O4
